US07842809B2
Preparation of 6-isopropyl-4-(4-nitro-phenyl)-2-oxo-1,2-dihydro-pyridine-3-carbonitrile
In analogy to the procedure described for Example 3a, reaction of 61.7 g ammonium acetate, 10.67 mL methyl cyanoacetate, 10.71 mL 3-methyl-butan-2-one, and 15.12 g 4-nitrobenzaldehyde yielded 4.24 g product.

reactant | ammonium acetate | 61.7 g | C(C)(=O)[O-].[NH4+]
reactant | methyl cyanoacetate | 10.67 mL | C(#N)CC(=O)OC | C4H5NO2
reactant | 3-methyl-butan-2-one | 10.71 mL | CC(C(C)=O)C | C5H10O
reactant | 4-nitrobenzaldehyde | 15.12 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
product | 6-isopropyl-4-(4-nitro-phenyl)-2-oxo-1,2-dihydro-pyridine-3-carbonitrile | 4.24 g | C(C)(C)C1=CC(=C(C(N1)=O)C#N)C1=CC=C(C=C1)[N+](=O)[O-] | C15H13N3O3
